*sram cell with percharge 

.include NMOS-180nm.lib
.include PMOS-180nm.lib

*inverters
m2 q qb vdd vdd CMOSP W=0.36u L=0.18u M=1
m5 qb q vdd vdd CMOSP W=0.36u L=0.18u M=1
m3 q qb gnd gnd CMOSN W=0.72u L=0.18u M=1
m4 qb q gnd gnd CMOSN W=0.72u L=0.18u M=1

*access transistors
m1 q wl bl gnd CMOSN W=0.36u L=0.18u M=1
m6 qb wl blbr gnd CMOSN W=0.36u L=0.18u M=1

*m7 blbr gnd vdd vdd CMOSP W=0.36u L=0.18u M=1
*m8 bl gnd vdd vdd  CMOSP W=0.36u L=0.18u M=1

m7 blbr pre vdd vdd CMOSP W=0.36u L=0.18u M=1
m8 bl pre vdd vdd  CMOSP W=0.36u L=0.18u M=1
m9 bl pre blbr vdd CMOSP W=0.36u L=0.18u M=1

c1 bl gnd 5f
c2 blbr gnd 10f
v1 vdd gnd  dc 1.8V

v2 wl gnd pulse(0 1.8V 0 10ps 10ps 50ns 100ns)
v3 pre gnd pulse(0V 1.8V 0 10ps 10ps 20ns 40ns)


.tran 10e-09 100nse-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt

plot v(q)v(qb)
plot v(wl) v(pre)

.endc
.end
